US04001239
Benzhydryl 7-(2-carboxybenzamido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate
A solution of benzhydryl 7-phthalimido-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate (2 mmol.) in 25 ml. of THF and 8 ml. of water is cooled in an ice-water bath, and 660 mg. of Na2S.9H2O are then added. The mixture is stirred for 15 minutes, and 10 ml. of water and 40 ml. of ethyl acetate are added. The layers are separated, and a neutral material is obtained from the ethyl acetate layer. The aqueous layer is acidified to pH 4.3 with 1N sulfuric acid and is extracted twice with ethyl acetate. The ethyl acetate extract is washed, dried, and evaporated to give the title compound.

reactant | benzhydryl 7-phthalimido-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | 2 mmol | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)CSC=3SC(=NN3)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O)=O)=CC=CC2)=O | C32H24N4O5S3
reactant | THF | C1CCOC1 | C4H8O
reactant | sodium sulfide | [S-2].[Na+].[Na+]
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Benzhydryl 7-(2-carboxybenzamido)-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylate | C(=O)(O)C1=C(C(=O)NC2[C@@H]3N(C(=C(CS3)CSC=3SC(=NN3)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C2=O)C=CC=C1 | C32H26N4O6S3
